US07419984B2
A mixture of 2-(4-nitro-phenoxy)-ethanol (1.0 g, 5.5 mmol), 10% palladium on carbon (110 mg), methanol (40 ml), and ethyl acetate (20 ml) was treated with hydrogen gas (50 psi) on a Parr shaker for 1 hour. The mixture was filtered through a pad of celite under suction and the filtrate was concentrated under reduced pressure to give 2-(4-amino-phenoxy)-ethanol (820 mg, 99% yield). 1H NMR (DMSO-d6) δ 3.61-3.64 (m, 2H, CH2), 3.80 (t, 2H, J=5.0 Hz CH2), 4.57 (br s, 2H, NH2), 4.74 (t, 1H, J=5.6 Hz, OH), 6.47 (d, 2H, J=8.7 Hz, Ar), 6.62 (d, 2H, J=8.8 Hz, Ar).

reactant | 2-(4-nitro-phenoxy)-ethanol | 5.5 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(OCCO)C=C1 | C8H9NO4
reactant | methanol | 40 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 110 mg | [Pd] | Pd
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-(4-amino-phenoxy)-ethanol | 820 mg, 99% yield | NC1=CC=C(OCCO)C=C1 | C8H11NO2
